US04405530
B. 1-Chloro-4-benzyloxybutane
A mixture of 4-benzyloxybutanol (64.8 g, 0.36 mol) in dry pyridine (200 ml) is stirred and heated to 50°-60° C. A solution of thionyl chloride (43 g, 0.36 mol) in pyridine (100 ml) is added slowly, and the mixture is kept at 60° C. for one more hour. After cooling to room temperature, the reaction mixture is poured into a mixture of ice and 2 N HCl. The mixture is saturated with sodium chloride, extracted with ether, and washed successively with water, 10% sodium bicarbonate, and water. Evaporation of solvent gives a yellow oil (49.7 g) which is distilled under vacuum to give the pure title compound (47 g), bp0.03-0.05 85°-90° C.

reactant | 4-benzyloxybutanol | 0.36 mol, 64.8 g | C(C1=CC=CC=C1)OCCCCO | C11H16O2
reactant | thionyl chloride | 0.36 mol, 43 g | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | 2 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-Chloro-4-benzyloxybutane | 49.7 g | ClCCCCOCC1=CC=CC=C1 | C11H15ClO
